Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right sided numbness resolved // Code stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with medical history of hypertension, asthma,
breast cancer in ___ status post resection, and complete
blindness in the setting of detached retinas presenting to the
emergency department for evaluation of 1 hour of transient right
upper and lower extremity paresthesias as well as a sensation of
tongue heaviness.

She reports was in her usual state of health  interviewing
somebody for a job today when she started experiencing a
cognitive fog.  She felt as if her tongue was stung by a bee in
the context that it was heavy.  She also felt tingling/pins and
needle sensation on her right arm starting from her shoulder 
down
to her right leg.  The symptoms lasted for an estimate.  Of 1
hour.  Associated symptoms included lightheadedness and delayed
nausea without vomiting.  She denies headache, weakness,
palpitations.  Ambulance was called and she arrived at the
emergency department with resolution of symptoms.  She denies 
any
difficulty walking to the stretcher but still complains of some
discomfort swallowing.  She did endorse a sensation of mild jaw
pain which resolved spontaneously.  ___ stroke scale as above
scoring 3 for chronic blindness but otherwise unremarkable.

On neuro ROS, the pt denies headache, dysarthria, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Hypertension
Asthma
Breast cancer in ___ status post resection
Blindness in the setting of detached retina

 
Social History:
___
Family History:
Family Hx:
Father: ___

 
Physical ___:
===============
ADMISSION EXAM
===============

 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI: Pupils fixed at 2.5 mm with significant corneal
scarring.  Unable to see light or movement.
V: Facial sensation intact to light touch and pinprick.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___    ___    5    5    5      5   
R  5    ___    ___    5    5    5      5   

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.  

-DTRs: 2+ throughout with downgoing plantar response.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. 

-Gait: Deferred given code stroke going to the scanner.
.
.
==================
DISCHARGE EXAM
==================
MS - A and Ox3, able to do serial 7s back to the ___, repetition 
intact, two step commands intact, ___ registration and 5 min 
recall. 
CN - II, III, IV, VI: Pupils fixed at 2.5 mm with significant 
corneal
scarring.  Unable to see light or movement.
V: Facial sensation intact to light touch and pinprick.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___
L  5    ___    ___    5    5    5      5   5
R  5    ___    ___    5    5    5      5   5

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS. 

-DTRs:
  Bi  Tr  BR  Pat  Ach
R 2+  3+  2+   3+   2+
L 2+  3+  2+   3+   2+

Right side biceps and patella brisker than the right. Right 
Hoffmans >> L hoffmans. Right two beats patellar clonus compared 
to one beat on the left. b/l crossed adductors. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. 

 
Pertinent Results:
==============
LABS
===============

___ 03:40PM BLOOD WBC-9.8 RBC-5.84* Hgb-15.3 Hct-47.2* 
MCV-81* MCH-26.2 MCHC-32.4 RDW-14.5 RDWSD-41.9 Plt ___
___ 03:40PM BLOOD Neuts-68.8 ___ Monos-7.1 Eos-1.8 
Baso-0.5 Im ___ AbsNeut-7.06* AbsLymp-2.18 AbsMono-0.73 
AbsEos-0.18 AbsBaso-0.05
___ 10:01AM BLOOD ___ PTT-29.5 ___
___ 10:01AM BLOOD Plt ___
___ 10:01AM BLOOD Glucose-116* UreaN-18 Creat-1.0 Na-141 
K-3.9 Cl-100 HCO3-25 AnGap-16
___ 10:01AM BLOOD ALT-21 AST-17 LD(LDH)-191 AlkPhos-68 
TotBili-0.3
___ 03:40PM BLOOD cTropnT-<0.01
___ 10:01AM BLOOD Albumin-4.2 Calcium-9.7 Phos-2.2* Mg-2.0 
Cholest-PND
___ 03:40PM BLOOD Albumin-4.6
___ 10:01AM BLOOD %HbA1c-PND
___ 10:01AM BLOOD Triglyc-PND HDL-PND
___ 10:01AM BLOOD TSH-PND
___ 07:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:00PM BLOOD Glucose-115* Na-143 K-3.5 Cl-100 
calHCO3-24
___ 08:02PM URINE Color-Straw Appear-Clear Sp ___
___ 08:02PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-TR*
___ 08:02PM URINE RBC-1 WBC-5 Bacteri-FEW* Yeast-NONE 
Epi-<1
___ 08:02PM URINE Hours-RANDOM
___ 08:02PM URINE UCG-NEGATIVE
___ 08:02PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
.
.
============
IMAGING
============
___ CTA HEAD AND NECK
1. No emergent large vessel occlusion. 
2. No acute intracranial hemorrhage. 
3. Mild intracranial atherosclerosis, without stenosis. 
4. Mild extracranial atherosclerosis. No internal carotid artery 
stenosis by NASCET criteria. There is a small distal left ICA 
pseudoaneurysm, most likely the sequela of a remote dissection. 
5. Confluent opacification within the right upper lobe may 
reflect fibrosis related to prior radiation therapy given the 
clinical history of breast cancer. 
.
.
___ MRI BRAIN W/O CONTRAST
1. No evidence for acute infarction. 
2. Probable mild chronic small vessel disease. 
.
.
CHEST XRAY ___
No acute cardiopulmonary process identified.
.
.
EKG
NSR

 
Brief Hospital Course:
___ woman with medical history of hypertension, asthma,
breast cancer in ___ status post resection, and complete
blindness in the setting of detached retinas presenting to the
emergency department for evaluation of cognitive 
slowing/fogginess with 1 hour of transient right upper and lower 
extremity paresthesias as well as a sensation of tongue 
numbness. 

Her extremity sensory symptoms were resolved by the time she was 
admitted and her cognitive symptoms improved slowly over time. 
At the time of evaluation the next morning after admission, she 
had a mild abnormal sensation over her tongue - 90% of normal. 

Her neurologic exam was significant for hyperreflexia on the 
right more than left - with right Hoffmans, right two beats 
patellar clonus, b/l crossed adductors, b/l 1 beat of ankle 
clonus. Otherwise, normal mental status, cranial nerves (aside 
for ocular motility - not tested due to blindness and corneal 
scarring), full strength, sensation, coordination, gait. 

Suspect TIA, however her report of cognitive slowing was odd - 
could have been related to hypertensive encephalopathy as she 
was reported to 180s systolic by EMTs. Ddx also includes 
migraine phenomena - she had migraines (throbbing HA, 
photophobia) when younger associated with menses - never had any 
visual or sensory phenomena. 

CTA showed subtle left ICA terminus possible pseudoaneurysm 
5mmx3mm which was not obvious on our review and b/l carotid 
artery atherosclerosis. 

MRI Brain was negative for any stroke or intracranial pathology 
but did show small vessel disease.

HbA1C pending, Lipid panel pending, TSH pending at the time of 
discharge - however, she has no history of DM and she was 
started on Atorvastatin. 

Echocardiogram can be obtained as an outpatient - ordered in our 
system and patient given the number to schedule. 

===========================

TRANSITIONAL ISSUES
- Started ASA 81mg daily
- Started Atorvastatin 20 mg at night
- f/u HbA1C, Lipid panel, TSH
- Echocardiogram 
- PCP follow up
- Neurology follow up

===========================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed – () No  
 2. DVT Prophylaxis administered? (X) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (X) Yes - () No  
 4. LDL documented? () Yes (LDL = ) - (X) No  (pending value)
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL if LDL >70, reason not given:  pending LDL
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL]  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Metoprolol Succinate XL 50 mg PO DAILY  
5.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 Dear Ms ___, 
  
 You were hospitalized due to symptoms of right arm, leg, and 
face/tongue numbness likely related to a TRANSIENT ISCHEMIC 
ATTACK, a condition where a blood vessel providing oxygen and 
nutrients to the brain is transiently blocked by a clot. The 
only odd part of your history is that you had the cognitive 
slowing/difficulty prior to the sensory symptoms - though this 
could have been related to high blood pressure. It is also 
possible that this was related to a migraine like phenomena.  
The brain is the part of your body that controls and directs all 
the other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- Atherosclerosis in your vessels
- High blood pressure

 We are changing your medications as follows:  
- Starting an aspirin 81mg daily
- Starting Atorvastatin 20mg at night

Your primary care provider should follow up your cholesterol lab 
tests and adjust the atorvastatin as needed. 

You can schedule an echocardiogram at ___ - this has 
been ordered in the ___ system. 

 Please take your other medications as prescribed.  

 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team  

 
Followup Instructions:
___